US07973181B2
Stage 3: (S)-2-tert-Butoxycarbonylamino-5-hydroxy-pentanoic acid cyclopentyl ester
Ethyl chloroformate (2.45 ml, 25.6 mmol) was added at −20° C. to a stirred solution of (S)-2-tert-Butoxycarbonylamino-pentanedioic acid 1-cyclopentyl ester (6.73 g, 21.4 mmol) and N-methyl morpholine (3.05 ml, 27.8 mmol) in THF (50 ml). The reaction mixture became very thick with precipitation of a white solid. The reaction was therefore diluted further with THF (100 ml) to aid mixing and left stirring at −20° C. for 2 hours. The precipitated mass was filtered off and the filtrate was added over a period of 20 minutes to a solution of sodium borohydride (2.43 g, 64.1 mmol) in THF (20 ml) and water (5 ml) at 0° C. The reaction mixture was allowed to stir to room temperature and left for 4 hours for complete reaction. The mixture was acidified to pH 5 with 1M HCl and the THF removed under reduced pressure. The aqueous solution was extracted with EtOAc (3×100 ml) and dried over magnesium sulphate. The product was purified by column chromatography (DCM-5% MeOH/DCM) and isolated as a clear oil (5.0 g, 78%). 1H NMR (300 MHz, CDCl3), δ: 5.20 (2H, m), 4.25 (1H, m), 3.65 (2H, m), 2.00-1.57 (12H, bm), 1.47 (9H, s).

reactant | Ethyl chloroformate | 25.6 mmol, 2.45 ml | ClC(=O)OCC | C3H5ClO2
reactant | (S)-2-tert-Butoxycarbonylamino-pentanedioic acid 1-cyclopentyl ester | 21.4 mmol, 6.73 g | C1(CCCC1)OC([C@H](CCC(=O)O)NC(=O)OC(C)(C)C)=O | C15H25NO6
reactant | N-methyl morpholine | 27.8 mmol, 3.05 ml | CN1CCOCC1 | C5H11NO
reactant | sodium borohydride | 64.1 mmol, 2.43 g | [BH4-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | (S)-2-tert-Butoxycarbonylamino-5-hydroxy-pentanoic acid cyclopentyl ester | 5.0 g, 78% | C1(CCCC1)OC([C@H](CCCO)NC(=O)OC(C)(C)C)=O | C15H27NO5
